US08022206B2
(1S)-1-(6-phenyl[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethanol
A suspension of (1S)-1-(6-chloro[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethanol (0.289 mmol, 1 eq), phenylboronic acid (0.650 mmol, 2.3 eq), Pd(PPh3)4 (45.9 mg, 0.0397 mmol, 14 mol %), and K2CO3 (132.0 mg, 0.9551 mmol, 3.3 eq) in a 4:1 ratio of dioxane (4 mL) to H2O (1 mL) was evacuated and charged with nitrogen several times. The reaction sample was then heated conventionally at 85° C. for 1 h. CH2Cl2 and H2O were added and a standard aqueous workup was performed. The crude material was purified by pTLC [Silicycle, 1000 μM, 20×20 plate], which required two developments in a 3% MeOH in EtOAc solvent system. 1H NMR (400 MHz, CDCl3): δ=1.93 (d, J=6.6 Hz, 3H), 3.00 (br s, 1H), 5.64 (q, J=6.6 Hz, 1H), 7.53-7.61 (m, 3H), 7.66 (d, J=9.9 Hz, 1H), 7.95-8.01 (m, 2H), 8.25 (d, J=9.9 Hz, 1H). MS (ES+): m/z 241.08 (100) [MH+]. HPLC: tR=2.51 min (ZQ3, polar—5 min).

reactant | (1S)-1-(6-chloro[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethanol | 0.289 mmol, 1 eq | ClC=1C=CC=2N(N1)C(=NN2)[C@H](C)O | C7H7ClN4O
reactant | phenylboronic acid | 0.650 mmol, 2.3 eq | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K2CO3 | 0.9551 mmol, 132.0 mg, 3.3 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.0397 mmol, 45.9 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 1 mL | O | H2O
product | (1S)-1-(6-phenyl[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethanol | C1(=CC=CC=C1)C=1C=CC=2N(N1)C(=NN2)[C@H](C)O | C13H12N4O
